US04892875
A mixture of m-chlorobenzaldehyde, 2-(4-benzhydryl-1-piperazinyl)ethyl acetoacetate and ethyl 3-aminocrotonate was worked up in isopropyl alcohol in the same manner as Example 1 to give 2-(4-benzhydryl-1-piperazinyl)ethyl ethyl 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate as a light yellow powder, m.p. 72°-75° C. (sintering). Yield 43.3%.

reactant | m-chlorobenzaldehyde | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | 2-(4-benzhydryl-1-piperazinyl)ethyl acetoacetate | C(CC(=O)C)(=O)OCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C23H28N2O3
reactant | ethyl 3-aminocrotonate | N\C(=C/C(=O)OCC)\C | C6H11NO2
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 2-(4-benzhydryl-1-piperazinyl)ethyl ethyl 4-(3-chlorophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | Yield 43.3% | ClC=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)OCC)C)C)C(=O)OCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C36H40ClN3O4
